US06395750B1
N-methyl-N-phenyl-1,2-dihydro-4-(N,N-dimethylamino)-1,5-dimethyl-2-oxo-quinoline-3-carboxamide
N-Methyl-N-phenyl-4-chloro-1,2-dihydro-1,5-dimethyl-2-oxo-quinoline-3-carboxamide (0.52 g) in a mixture of dimethylamine and ethanol was heated in a thick-walled glass flask stoppered by a screw cap. The reaction was monitored by TLC (mixtures of dichloromethane/methanol were used as elutents). After 8 hours of heating the flask was cooled, opened, and diluted with water. The resulting precipitate was filtered, washed with water and dried in vacuum to afford the title compound (0.39 g).

reactant | N-Methyl-N-phenyl-4-chloro-1,2-dihydro-1,5-dimethyl-2-oxo-quinoline-3-carboxamide | 0.52 g | CN(C(=O)C=1C(N(C2=CC=CC(=C2C1Cl)C)C)=O)C1=CC=CC=C1 | C19H17ClN2O2
reactant | dichloromethane methanol | ClCCl.CO
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | N-methyl-N-phenyl-1,2-dihydro-4-(N,N-dimethylamino)-1,5-dimethyl-2-oxo-quinoline-3-carboxamide | 0.39 g | CN(C(=O)C=1C(N(C2=CC=CC(=C2C1N(C)C)C)C)=O)C1=CC=CC=C1 | C21H23N3O2
